US06288086B1
1-Benzyl-4-[4-(2-ethyl-butoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid was prepared starting from 1-Benzyl-4-[4-(2-ethyl-butoxy)-benzenesulfonyl]-piperidine-4-carboxylic ethyl ester (4.8 g, 10 mmol) dissolved in THF:methanol (3:1 150 ml) and 10 N NaOH (20 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 4 g (87%); Semi solid; MS: 460 (M+H)+

reactant | 1-Benzyl-4-[4-(2-ethyl-butoxy)-benzenesulfonyl]-piperidine-4-carboxylic ethyl ester | 10 mmol, 4.8 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OCC(CC)CC | C27H37NO5S
solvent | THF methanol | 150 ml | C1CCOC1.CO
solvent | NaOH | 10 N, 20 ml | [OH-].[Na+]
product | 1-Benzyl-4-[4-(2-ethyl-butoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OCC(CC)CC | C25H33NO5S
